US08193228B2
1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone
Methylmagnesium bromide (3 M in tetrahydrofuran) (2.1 mL, 6.2 mmol) was added to a −78° C. solution of 4-(5-fluoropyridin-2-yl)-N-methoxy-N-methylbenzamide (800 mg, 3.1 mmol) in tetrahydrofuran (20 mL). After stirring at 0° C. for 30 min, the reaction mixture was quenched with methanol and saturated aqueous ammonium chloride. The organic layer was dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-15% ethyl acetate/hexane afforded the title compound.

reactant | Methylmagnesium bromide | 6.2 mmol, 3 M, 2.1 mL | C[Mg]Br
reactant | 4-(5-fluoropyridin-2-yl)-N-methoxy-N-methylbenzamide | 3.1 mmol, 800 mg | FC=1C=CC(=NC1)C1=CC=C(C(=O)N(C)OC)C=C1 | C14H13FN2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone | FC=1C=CC(=NC1)C1=CC=C(C=C1)C(C)=O | C13H10FNO
